US06818640B1
To a solution of 2-methoxybenzylamine (1.80 g) in diethylether (20 ml) was added dropwise under ice-cooling for 10 minutes thiophosgene (1.54 g). The mixture was stirred at room temperature for 1 hour. To the reaction solution was added water (30 ml), extracted with diethylether (60 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give (2-methoxybenzyl)isothiocyanate (2.35 g, yield: 99%) as brown oil.

reactant | 2-methoxybenzylamine | 1.80 g | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | thiophosgene | 1.54 g | C(=S)(Cl)Cl | CCl2S
reactant | water | 30 ml | O | H2O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
product | (2-methoxybenzyl)isothiocyanate | 2.35 g, yield: 99% | COC1=C(CN=C=S)C=CC=C1 | C9H9NOS
